US06676851B1
A solution of 4-hydroxy-4′-methoxy-3-biphenylcarboxylic acid (5.3 g; 21.6 mmol), tetrabutylphosphonium bromide (0.8 g; 2.3 mmol), acetic acid (35 ml) and hydrobromic acid (35 ml of a 48% solution) was heated at reflux for 6 h. The reaction mixture was cooled and poured into water (400 ml). The resulting precipitate was isolated and recrystallised from ethyl acetate to give 2.4 g (47%) of 4,4′-dihydroxy-3-biphenyl-carboxylic acid.

reactant | 4-hydroxy-4′-methoxy-3-biphenylcarboxylic acid | 21.6 mmol, 5.3 g | OC1=C(C=C(C=C1)C1=CC=C(C=C1)OC)C(=O)O | C14H12O4
reactant | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | Br | BrH
catalyst | tetrabutylphosphonium bromide | 2.3 mmol, 0.8 g | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
solvent | water | 400 ml | O | H2O
product | 4,4′-dihydroxy-3-biphenyl-carboxylic acid | 2.4 g, 47% | OC1=C(C=C(C=C1)C1=CC=C(C=C1)O)C(=O)O | C13H10O4
